US07238701B2
Step 1. Preparation of Example 214: 3-Methyl-4-(6-methyl-pyridin-3-yloxy)-phenylamine
The solution of 2-Methyl-5-(2-methyl-4-nitro-phenoxy)-pyridine (6.4 g, 26.2 mmol), 10 wt % Pd/C (0.50 g) in ethanol (100 mL) was stirred under 1 atm hydrogen at rt for 24 h. Then the Pd/C catalyst was removed by filtration through a layer of celite. Removal of the solvent gave the desired product as an off-white solid (5.55 g, 99%). 1H-NMR (DMSO-d6) δ 8.04 (d, J=2.7 Hz, 1H), 7.13 (d, J=5.4 Hz, 1H), 7.02 (dd, J=8.7, 3.1 Hz, 1H), 6.68 (d, J=8.7 Hz, 1H), 6.49 (d, J=2.6 Hz, 1H), 6.42 (dd, J=8.4, 2.8 Hz, 1H), 4.96 (br, 2H), 2.39 (s, 3H), 1.97 (s, 3H). LCMS RT=1.04 min; [M+H]+=215.2.

reactant | 2-Methyl-5-(2-methyl-4-nitro-phenoxy)-pyridine | 26.2 mmol, 6.4 g | CC1=NC=C(C=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])C | C13H12N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.50 g | [Pd] | Pd
product | 3-Methyl-4-(6-methyl-pyridin-3-yloxy)-phenylamine | 5.55 g, 99% | CC=1C=C(C=CC1OC=1C=NC(=CC1)C)N | C13H14N2O
